US07173024B2
BOC-L-phenylalanyl-pyrrolidine
2.65 g (10 mmol) BOC-L phenylalanine was coupled to 1.48 ml (17.8 mmol) pyrrolidine according to procedure B. Yield of active ester 3.22 g (8.9 mmol, 89%). Yield of crude product 3.33 g. The product was purified with a silica column using 1–2% methanol in dichloromethane as eluent. Yield 1.76 g (5.5 mmol, 55%).

reactant | BOC-L phenylalanine | 10 mmol, 2.65 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
reactant | pyrrolidine | 17.8 mmol, 1.48 ml | N1CCCC1 | C4H9N
product | BOC-L-phenylalanyl-pyrrolidine | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)C(=O)N1CCCC1 | C18H26N2O3
